US07446199B2
A mixture of trifluoro-methanesulfonic acid 4-tert-butoxycarbonylamino-cyclohex-1-enyl ester (730 mg, 20 mmol), 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine (490 mg, 20 mmol), Pd(dppf)Cl2 (80 mg) and 2.0M Na2CO3 (3 ml, 6 mmol) in DMF (20 ml) was heated at 80° C. under N2 for 3 hours, and then concentrated. The residue was suspended in water, filtered and the solid was purified by FC to give [4-(1H-Pyrrolo[2,3-b]pyridin-5-yl)-cyclohex-3-enyl]-carbamic acid tert-butyl ester (600 mg) in 96% yield. FIA-MS: m/e=314.05 (M+H). A suspension of the above cyclohexene (300 mg) and 10% Pd/C (200 mg) in a 1:1 mixed solvent of EtOAc and MeOH (30 ml) was shaken under 50 psi H2 for 20 h. Filtration gave [4-(1H-pyrrolo[2,3-b]pyridin-5-yl)-cyclohexyl]-carbamic acid tert-butyl ester (280 mg). FIA-MS: m/e=316.3 (M+H).

reactant | trifluoro-methanesulfonic acid 4-tert-butoxycarbonylamino-cyclohex-1-enyl ester | 20 mmol, 730 mg | C(C)(C)(C)OC(=O)NC1CC=C(CC1)OS(=O)(=O)C(F)(F)F | C12H18F3NO5S
reactant | 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine | 20 mmol, 490 mg | CC1(OB(OC1(C)C)C=1C=C2C(=NC1)NC=C2)C | C13H17BN2O2
reactant | Na2CO3 | 6 mmol, 2.0M, 3 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
catalyst | Pd(dppf)Cl2 | 80 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | [4-(1H-Pyrrolo[2,3-b]pyridin-5-yl)-cyclohex-3-enyl]-carbamic acid tert-butyl ester | 600 mg, 96% yield | C(C)(C)(C)OC(NC1CC=C(CC1)C=1C=C2C(=NC1)NC=C2)=O | C18H23N3O2
